US08217064B2
Ethyl-1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclobutanecarboxylate (0.2 g, 0.41 mmol) was dissolved in 25 mL of MeOH/THF/H2O (10:10:5, vvl), LiOH (0.10 g, 4.1 mmol) was added. The reaction mixture was stirred for 5 h at room temperature and concentrated under reduced pressure. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by column chromatography over silica gel (DCM/MeOH, 95:5) gave the compound 1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclobutanecarboxylic acid (0.06 g) as a white solid. 1H NMR (500 MHz, CDCl3/TMS): δ 7.72 (d, 2H), 7.41 (d, 2H), 7.19 (s, 1H), 6.79 (s, 1H), 4.23 (q, 2H), 3.92 (m, 2H), 2.58 (m, 2H), 2.19 (m, 1H), 1.97 (m, 1H);

reactant | Ethyl-1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclobutanecarboxylate | 0.41 mmol, 0.2 g | C(C)OC(=O)C1(CCC1)C1=CC(=C(C(=C1)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)Cl | C22H19ClF6O3
reactant | LiOH | 4.1 mmol, 0.10 g | [Li+].[OH-]
solvent | MeOH THF H2O | 25 mL | CO.C1CCOC1.O
product | 1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclobutanecarboxylic acid | 0.06 g | ClC1=C(C(=CC(=C1)C1(CCC1)C(=O)O)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C20H15ClF6O3
